* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-sdb cascade.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*============== Begin SPICE netlist of main design ============
AMP2 6 unconnected_pin-1 unknown
T1 5 6 <No valid value attribute found>
MX1 4 5 unknown 
FL1 3 4 <No valid value attribute found>
DEF1 2 3 unknown 
AMP1 1 2 unknown
SOURCE 1 <No valid value attribute found>
DEFAULTS unknown 
.end
